US04261996
4,9-Dihydro-5-methoxy-9-oxo-pyrazolo[5,1-b]quinazoline-2-carboxylic acid.
A mixture of 2-amino-3-methoxybenzoic acid hydrazide (23,6 g; 0.13 mole) and 90% diethyl oxalacetate, sodium salt (32.7 g; 0.14 mole) in water (400 ml) is heated under reflux for 1.5 hrs. To the resulting yellow solution is added sodium carbonate (14.8 g; 0.14 mole) and the solution is refluxed for an additional hour. The cooled reaction mixture is cautiously treated with conc. HCl (0.28 mole) and the precipitated solid is filtered off, washed with water and recrystallized from methanol (1500 ml). Yield 5.8 g; mp 271°-272° C. (d).

reactant | 2-amino-3-methoxybenzoic acid hydrazide | 0.13 mole, 23,6 g | NC1=C(C(=O)NN)C=CC=C1OC | C8H11N3O2
reactant | diethyl oxalacetate | C(CC(=O)C(=O)OCC)(=O)OCC | C8H12O5
reactant | sodium | 0.14 mole, 32.7 g | [Na] | Na
reactant | sodium carbonate | 0.14 mole, 14.8 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | HCl | 0.28 mole | Cl | ClH
solvent | water | 400 ml | O | H2O
product | 4,9-Dihydro-5-methoxy-9-oxo-pyrazolo[5,1-b]quinazoline-2-carboxylic acid | COC1=CC=CC=2C(N3C(NC12)=CC(=N3)C(=O)O)=O | C12H9N3O4
